US04965263
6-[4-(2-hydroxypropanoylamino)-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
A composition which comprises an effective blood pressure depressing, platelet aggregation inhibiting, or myocardial-contraction reinforcing amount of a compound selected from the group consisting of 6-[4-(N-carbobenzoxy-L-phenylalanylamino)-phenyl]-5-methyl -4,5-dihydro-3(2H)-pyridazinone, 6-[4-(L-phenylalanylamino)-phenyl-5-methyl-4,5-dihydro-3(2H)=pyridazinone, 6-]4-(N-carbobenzoxy-L-tryptophylamino)-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone, and 6-[4-(N-carbobenzoxy-L-asparaginylamino)-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone; and a pharmaceutically acceptable carrier.

reactant | 6-[4-(N-carbobenzoxy-L-phenylalanylamino)-phenyl]-5-methyl -4,5-dihydro-3(2H)-pyridazinone | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)C(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C28H28N4O4
reactant | pyridazinone | N=1NC(C=CC1)=O | C4H4N2O
reactant | 5-methyl-4,5-dihydro-3(2H)-pyridazinone | CC1CC(NN=C1)=O | C5H8N2O
reactant | 6-[4-(N-carbobenzoxy-L-asparaginylamino)-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(N)=O)C(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C23H25N5O5
product | 6-[4-(2-hydroxypropanoylamino)-phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | OC(C(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)C | C14H17N3O3
